US05076828
A four-necked flask fitted with stirrer and condenser means was charged with 39.8 g of lauryltrihydroxyethylammonium bromide, 15.9 g of sodium aminomethanesulfonate and 200 g of isopropyl alcohol and the reaction was conducted at 70°-80° C. in an atmosphere of nitrogen gas introduced at a low flow rate for 5 hours. The precipitate was then filtered off and the filtrate was concentrated. The residue was dissolved in 200 g of isopropyl alcohol and the insolubles were filtered off. Finally, the filtrate was concentrated to give 40.1 g (theoretical yield 42.8 g) of lauryltrihydroxyethylammonium aminomethanesulfonate as a waxy product. The elemental analysis is shown below.

reactant | lauryltrihydroxyethylammonium bromide | 39.8 g | [Br-].C(CCCCCCCCCCC)[NH2+]CC(O)(O)O
reactant | sodium aminomethanesulfonate | 15.9 g | NCS(=O)(=O)[O-].[Na+]
solvent | isopropyl alcohol | 200 g | C(C)(C)O | C3H8O
product | lauryltrihydroxyethylammonium aminomethanesulfonate | 40.1 g | NCS(=O)(=O)[O-].C(CCCCCCCCCCC)[NH2+]CC(O)(O)O | InChI=1S/C14H31NO3.CH5NO3S/c1-2-3-4-5-6-7-8-9-10-11-12-15-13-14(16,17)18;2-1-6(3,4)5/h15-18H,2-13H2,1H3;1-2H2,(H,3,4,5)
